*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:23:02 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "EDFFHQX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  EDFFHQX1 E Q D CK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET E 6.87018e-16
*|P (E X 0 4.7000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 4.2525 0.4450)
*|I (Mmn0:g Mmn0 g X 0 4.5925 0.4775)
*|I (Mmp1:g Mmp1 g X 0 3.9225 1.1700)
*|I (Mmp0:g Mmp0 g X 0 4.5925 1.0825)
*|S (E:2 3.8650 0.8450)
*|S (E:4 4.2150 0.6850)
*|S (E:6 4.6150 0.6850)
*|S (E:8 4.3300 0.6550)
*|S (E:9 4.6150 0.6850)
C1 Mmp0:g VSS 4.8429e-17
C2 Mmp1:g VSS 5.38862e-17
C3 Mmn0:g VSS 3.11182e-17
C4 Mmn3:g VSS 6.65526e-17
C5 E:8 VSS 1.15899e-16
C6 E:2 VSS 1.80668e-16
C7 E:4 VSS 8.10119e-17
C8 E:6 VSS 7.25412e-17
C9 E VSS 3.69119e-17
Rl1 Mmn3:g E:4 73.078979 $W=0.039
Rl2 E:6 Mmn0:g 35.713398 $W=0.039
Rl3 Mmp1:g E:2 91.534874 $W=0.039
Rl4 Mmp0:g E:6 95.328781 $W=0.039
Rk5 E:8 E:4 0.084987 $W=0.09
Rk6 E:2 E:8 0.906547 $W=0.08
Rk7 E:9 E 0.053003 $W=0.1
Rk8 E:6 E:9 45.000000 $W=0.08
Rk9 E:8 E:9 0.223687 $W=0.08
*
*|NET Q 1.3175e-16
*|P (Q X 0 3.1000 0.8550)
*|I (Mmn55:d Mmn55 d X 0 3.1150 0.5250)
*|I (Mmp55:d Mmp55 d X 0 3.1100 1.1950)
C10 Mmp55:d VSS 4.24557e-17
C11 Mmn55:d VSS 6.11352e-17
C12 Q VSS 2.81592e-17
Rk10 Mmn55:d Q 75.157181 $W=0.1
Rk11 Q Mmp55:d 62.104885 $W=0.1225
*
*|NET D 3.36334e-16
*|P (D X 0 4.5000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 4.3575 0.4450)
*|I (Mmp2:g Mmp2 g X 0 4.3575 1.1700)
*|S (D:2 4.4050 0.8750)
C13 Mmp2:g VSS 5.61257e-17
C14 Mmn2:g VSS 8.40619e-17
C15 D:2 VSS 1.09168e-16
C16 D VSS 8.69786e-17
Rl12 D:2 Mmn2:g 101.155907 $W=0.039
Rl13 Mmp2:g D:2 24.232828 $W=0.039
Rk14 D D:2 45.039585 $W=0.125
*
*|NET CK 2.61928e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.3025 0.4175)
*|I (Mmp20:g Mmp20 g X 0 0.2625 1.3425)
*|S (CK:2 0.2900 1.0400)
*|S (CK:4 0.2900 1.0400)
C17 Mmp20:g VSS 3.55458e-17
C18 Mmn20:g VSS 5.51986e-17
C19 CK:2 VSS 5.48604e-17
C20 CK VSS 1.16323e-16
Rl15 Mmn20:g CK:2 195.328781 $W=0.039
Rl16 CK:2 Mmp20:g 58.790321 $W=0.039
Rk17 CK:4 CK 0.002999 $W=0.1
Rk18 CK:2 CK:4 45.000000 $W=0.1
*
*|NET CKb 7.707e-16
*|I (Mmn20:d Mmn20 d X 0 0.2100 0.4175)
*|I (Mmn21:g Mmn21 g X 0 0.5075 0.4175)
*|I (Mmn25:g Mmn25 g X 0 0.9725 0.4975)
*|I (Mmn51:g Mmn51 g X 0 2.5725 0.4975)
*|I (Mmp20:d Mmp20 d X 0 0.1700 1.3425)
*|I (Mmp21:g Mmp21 g X 0 0.4675 1.3425)
*|I (Mmp36:g Mmp36 g X 0 1.3825 1.1550)
*|I (Mmp40:g Mmp40 g X 0 2.3875 1.1550)
*|S (CKb:4 0.9725 0.6975)
*|S (CKb:5 0.4875 0.6975)
*|S (CKb:8 0.4800 0.6000)
*|S (CKb:10 0.2000 0.6000)
C21 Mmp40:g VSS 1.09016e-16
C22 Mmp36:g VSS 1.37031e-16
C23 Mmp21:g VSS 5.86038e-17
C24 Mmp20:d VSS 7.27967e-17
C25 Mmn51:g VSS 9.66399e-17
C26 Mmn25:g VSS 2.3158e-17
C27 Mmn21:g VSS 2.37109e-17
C28 Mmn20:d VSS 1.99224e-17
C29 CKb:10 VSS 7.9128e-17
C30 CKb:5 VSS 4.30245e-17
C31 CKb:4 VSS 5.38473e-17
C32 CKb:8 VSS 5.38213e-17
Rl19 CKb:5 CKb:8 12.071358 $W=0.079
Rl20 CKb:4 CKb:5 172.352020 $W=0.039
Rl21 CKb:8 Mmn21:g 26.098015 $W=0.039
Rl22 CKb:4 Mmn25:g 30.450726 $W=0.039
Rl23 CKb:5 Mmp21:g 206.359634 $W=0.039
Rl24 Mmp36:g CKb:4 245.697388 $W=0.039
Rl25 Mmn51:g Mmp40:g 203.044891 $W=0.039
Rl26 Mmp40:g Mmp36:g 524.565613 $W=0.039
Rk27 CKb:8 CKb:10 45.207722 $W=0.09
Rk28 CKb:10 Mmn20:d 75.100334 $W=0.09
Rk29 CKb:10 Mmp20:d 62.638805 $W=0.09
*
*|NET CKbb 9.93374e-16
*|I (Mmn21:d Mmn21 d X 0 0.6300 0.4175)
*|I (Mmn36:g Mmn36 g X 0 1.4125 0.4975)
*|I (Mmn40:g Mmn40 g X 0 2.2525 0.4975)
*|I (Mmp21:d Mmp21 d X 0 0.5600 1.3425)
*|I (Mmp25:g Mmp25 g X 0 1.1775 1.1550)
*|I (Mmp51:g Mmp51 g X 0 2.5925 1.1550)
*|S (CKbb:2 1.0900 0.8700)
*|S (CKbb:4 1.4400 0.7100)
*|S (CKbb:6 2.2800 0.7600)
*|S (CKbb:8 2.5550 0.8400)
*|S (CKbb:9 1.4400 0.3800)
*|S (CKbb:10 1.0600 0.3800)
*|S (CKbb:12 0.6700 0.4100)
C33 Mmp51:g VSS 5.34176e-17
C34 Mmp25:g VSS 3.5711e-17
C35 Mmp21:d VSS 6.99055e-17
C36 Mmn40:g VSS 3.09971e-17
C37 Mmn36:g VSS 3.89928e-17
C38 Mmn21:d VSS 1.09104e-16
C39 CKbb:10 VSS 7.52883e-17
C40 CKbb:9 VSS 1.10247e-16
C41 CKbb:2 VSS 1.07732e-16
C42 CKbb:4 VSS 9.0795e-17
C43 CKbb:6 VSS 1.56258e-16
C44 CKbb:8 VSS 1.14926e-16
Rl30 Mmn36:g CKbb:4 74.537926 $W=0.039
Rl31 Mmn40:g CKbb:6 93.768700 $W=0.039
Rl32 Mmp25:g CKbb:2 91.416969 $W=0.039
Rl33 Mmp51:g CKbb:8 92.309753 $W=0.039
Rk34 CKbb:8 CKbb:6 0.244662 $W=0.09
Rk35 CKbb:6 CKbb:9 0.887754 $W=0.08
Rk36 CKbb:9 CKbb:4 0.224719 $W=0.08
Rk37 CKbb:10 CKbb:2 0.361308 $W=0.08
Rk38 CKbb:9 CKbb:10 0.283654 $W=0.09
Rk39 CKbb:10 CKbb:12 0.284539 $W=0.09
Rk40 Mmn21:d CKbb:12 75.000000 $W=0.09
Rk41 CKbb:12 Mmp21:d 62.666656 $W=0.09
*
*|NET n20 3.96027e-16
*|I (Mmn25:d Mmn25 d X 0 1.1925 0.4975)
*|I (Mmn30:g Mmn30 g X 0 1.9025 0.4975)
*|I (Mmp25:d Mmp25 d X 0 1.2800 1.1550)
*|I (Mmp30:g Mmp30 g X 0 1.9025 1.1550)
*|S (n20:2 1.9300 0.7100)
*|S (n20:5 1.2800 0.9000)
C45 Mmp30:g VSS 5.41752e-17
C46 Mmp25:d VSS 3.40446e-17
C47 Mmn30:g VSS 3.3877e-17
C48 Mmn25:d VSS 6.82836e-17
C49 n20:5 VSS 8.46973e-17
C50 n20:2 VSS 1.20949e-16
Rl42 n20:2 Mmn30:g 29.537926 $W=0.039
Rl43 Mmp30:g n20:2 98.768692 $W=0.039
Rk44 n20:5 n20:2 45.587605 $W=0.09
Rk45 n20:5 Mmn25:d 75.263054 $W=0.09
Rk46 Mmp25:d n20:5 62.117393 $W=0.1
*
*|NET Db 8.29959e-16
*|I (Mmn25:s Mmn25 s X 0 0.8800 0.4975)
*|I (Mmn1:s Mmn1 s X 0 4.1450 0.4450)
*|I (Mmp25:s Mmp25 s X 0 1.0850 1.1550)
*|I (Mmp1:s Mmp1 s X 0 4.0500 1.1700)
*|S (Db:3 4.0250 1.1700)
*|S (Db:5 1.0750 1.1400)
C51 Mmp1:s VSS 3.21287e-16
C52 Mmp25:s VSS 3.02483e-16
C53 Mmn1:s VSS 1.11957e-16
C54 Mmn25:s VSS 9.42314e-17
Rk47 Db:3 Db:5 2.455054 $W=0.08
Rk48 Db:5 Mmn25:s 75.540215 $W=0.09
Rk49 Mmn1:s Db:3 75.593391 $W=0.08
Rk50 Mmp25:s Db:5 31.000000 $W=0.08
Rk51 Mmp1:s Db:3 20.666666 $W=0.08
*
*|NET net340 1.32881e-18
*|I (Mmn36:s Mmn36 s X 0 1.5100 0.4975)
*|I (Mmn35:d Mmn35 d X 0 1.5100 0.4975)
C55 Mmn36:s VSS 1.32881e-18
Rmw52 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 3.71967e-16
*|I (Mmn35:g Mmn35 g X 0 1.6075 0.4975)
*|I (Mmn30:d Mmn30 d X 0 2.0775 0.4975)
*|I (Mmp35:g Mmp35 g X 0 1.6075 1.1550)
*|I (Mmp30:d Mmp30 d X 0 2.1450 1.1550)
*|S (mout:1 1.7600 0.8700)
*|S (mout:2 1.6075 0.8700)
*|S (mout:6 2.0900 0.9000)
C56 Mmp30:d VSS 4.31384e-17
C57 Mmp35:g VSS 4.75817e-17
C58 Mmn30:d VSS 5.89385e-17
C59 Mmn35:g VSS 5.19861e-17
C60 mout:6 VSS 4.78583e-17
C61 mout:2 VSS 2.83213e-17
C62 mout:1 VSS 9.41425e-17
Rl53 mout:1 mout:2 61.287308 $W=0.094
Rl54 mout:2 Mmn35:g 99.714119 $W=0.039
Rl55 mout:2 Mmp35:g 45.867973 $W=0.039
Rk56 mout:6 mout:1 0.228036 $W=0.08
Rk57 mout:6 Mmn30:d 75.262840 $W=0.09
Rk58 Mmp30:d mout:6 62.119614 $W=0.09
*
*|NET n30 5.46498e-16
*|I (Mmn40:s Mmn40 s X 0 2.4125 0.4975)
*|I (Mmn45:g Mmn45 g X 0 3.5725 0.4725)
*|I (Mmp40:s Mmp40 s X 0 2.4900 1.1550)
*|I (Mmp45:g Mmp45 g X 0 3.6875 1.2100)
*|S (n30:2 3.5725 0.6750)
*|S (n30:3 3.5150 0.6750)
*|S (n30:5 2.7150 0.6150)
C63 Mmp45:g VSS 6.78488e-17
C64 Mmp40:s VSS 8.27008e-17
C65 Mmn45:g VSS 2.23392e-17
C66 Mmn40:s VSS 5.79044e-17
C67 n30:5 VSS 1.38247e-16
C68 n30:2 VSS 3.45466e-17
C69 n30:3 VSS 1.42911e-16
Rl59 n30:2 n30:3 50.101101 $W=0.094
Rl60 n30:2 Mmn45:g 23.740160 $W=0.039
Rl61 Mmp45:g n30:2 171.462204 $W=0.039
Rk62 n30:3 n30:5 0.907790 $W=0.08
Rk63 n30:5 Mmn40:s 75.232857 $W=0.09
Rk64 n30:5 Mmp40:s 62.434753 $W=0.08
*
*|NET net380 1.32746e-18
*|I (Mmn51:s Mmn51 s X 0 2.6250 0.4975)
*|I (Mmn50:d Mmn50 d X 0 2.6250 0.4975)
C70 Mmn51:s VSS 1.32746e-18
Rmw65 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET qbint 4.65584e-16
*|I (Mmn50:g Mmn50 g X 0 2.6775 0.4975)
*|I (Mmn55:g Mmn55 g X 0 3.0175 0.5250)
*|I (Mmn45:d Mmn45 d X 0 3.9650 0.4450)
*|I (Mmp50:g Mmp50 g X 0 2.7525 1.1550)
*|I (Mmp55:g Mmp55 g X 0 3.0175 1.1950)
*|I (Mmp45:d Mmp45 d X 0 3.8300 1.1700)
*|S (qbint:2 3.0175 0.8075)
*|S (qbint:3 3.0175 0.7525)
*|S (qbint:4 2.7525 0.7525)
*|S (qbint:6 3.3400 0.8350)
*|S (qbint:10 3.7050 0.8350)
C71 Mmp45:d VSS 4.94456e-17
C72 Mmp55:g VSS 3.84497e-17
C73 Mmp50:g VSS 4.69843e-17
C74 Mmn45:d VSS 5.69645e-17
C75 Mmn55:g VSS 2.59651e-17
C76 Mmn50:g VSS 4.65737e-17
C77 qbint:10 VSS 5.92846e-17
C78 qbint:4 VSS 4.08212e-17
C79 qbint:3 VSS 6.71559e-18
C80 qbint:2 VSS 1.31357e-17
C81 qbint:6 VSS 8.12441e-17
Rl66 qbint:2 qbint:6 149.219421 $W=0.039
Rl67 qbint:2 qbint:3 17.697832 $W=0.039
Rl68 qbint:3 qbint:4 87.824532 $W=0.039
Rl69 qbint:4 Mmn50:g 68.029953 $W=0.039
Rl70 qbint:3 Mmn55:g 35.771992 $W=0.039
Rl71 qbint:4 Mmp50:g 93.464302 $W=0.039
Rl72 Mmp55:g qbint:2 72.310455 $W=0.039
Rk73 qbint:10 qbint:6 0.245080 $W=0.09
Rk74 qbint:10 Mmn45:d 75.244171 $W=0.08
Rk75 Mmp45:d qbint:10 62.229156 $W=0.08
*
*|NET Eb 4.36384e-16
*|I (Mmn1:g Mmn1 g X 0 4.0375 0.4450)
*|I (Mmn0:d Mmn0 d X 0 4.6850 0.4775)
*|I (Mmp3:g Mmp3 g X 0 4.1775 1.1700)
*|I (Mmp0:d Mmp0 d X 0 4.6850 1.0825)
*|S (Eb:2 4.2150 0.8750)
*|S (Eb:6 4.6950 1.1300)
C82 Mmp0:d VSS 1.12335e-16
C83 Mmp3:g VSS 4.17502e-17
C84 Mmn0:d VSS 8.32126e-17
C85 Mmn1:g VSS 6.28683e-17
C86 Eb:2 VSS 1.36217e-16
Rl76 Eb:2 Mmn1:g 135.217316 $W=0.039
Rl77 Mmp3:g Eb:2 24.232828 $W=0.039
Rk78 Eb:6 Eb:2 45.484013 $W=0.08
Rk79 Mmn0:d Eb:6 75.687355 $W=0.09
Rk80 Mmp0:d Eb:6 62.000000 $W=0.09
*
*|NET net333 4.74274e-19
*|I (Mmn3:s Mmn3 s X 0 4.3050 0.4450)
*|I (Mmn2:d Mmn2 d X 0 4.3050 0.4450)
C87 Mmn3:s VSS 4.74274e-19
Rmw81 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net309 3.74264e-18
*|I (Mmp36:s Mmp36 s X 0 1.4950 1.1550)
*|I (Mmp35:d Mmp35 d X 0 1.4950 1.1550)
C88 Mmp36:s VSS 3.74264e-18
Rmw82 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET net317 6.19106e-18
*|I (Mmp51:s Mmp51 s X 0 2.6725 1.1550)
*|I (Mmp50:d Mmp50 d X 0 2.6725 1.1550)
C89 Mmp51:s VSS 6.19106e-18
Rmw83 Mmp50:d Mmp51:s 0.001000 $W=1
*
*|NET net328 4.71904e-18
*|I (Mmp3:s Mmp3 s X 0 4.2675 1.1700)
*|I (Mmp2:d Mmp2 d X 0 4.2675 1.1700)
C90 Mmp3:s VSS 4.71904e-18
Rmw84 Mmp2:d Mmp3:s 0.001000 $W=1
*
*Instance Section
*
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=4.05e-07 sca=9.16682 scb=0.00760686 scc=0.000164708
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.029P	AS=0.0232P	PD=0.69U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=2e-07 sca=9.16682 scb=0.00760686 scc=0.000164708
Mmn25	Mmn25:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.08098P	AS=0.0287P	PD=1.2U	PS=0.69U
+ fw=2.05e-07 sa=1.4e-07 sb=2e-06 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn36	Mmn25:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.08098P	AS=0.03075P	PD=1.2U	PS=0.71U
+ fw=2.05e-07 sa=5.8e-07 sb=1.755e-06 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03075P	AS=0.07945P	PD=0.71U	PS=1.38U
+ fw=2.05e-07 sa=7.75e-07 sb=1.56e-06 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06252P	AS=0.07945P	PD=1.02U	PS=1.38U
+ fw=2.05e-07 sa=1.07e-06 sb=1.265e-06 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn40	Mmn30:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06252P	AS=0.05638P	PD=1.02U	PS=0.96U
+ fw=2.05e-07 sa=1.42e-06 sb=9.15e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn51	Mmn40:s	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05638P	AS=0.0123P	PD=0.96U	PS=0.53U
+ fw=2.05e-07 sa=1.74e-06 sb=5.95e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.06598P	PD=0.53U	PS=1.11U
+ fw=2.05e-07 sa=1.845e-06 sb=4.9e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.039P	AS=0.06598P	PD=0.82U	PS=1.11U
+ fw=2.6e-07 sa=1.59808e-06 sb=1.5e-07 sca=16.9678 scb=0.0167861 scc=0.00150639
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0916P	AS=0.0287P	PD=1.36U	PS=0.69U
+ fw=2.05e-07 sa=1.4e-07 sb=1.07951e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn1	Mmn45:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0916P	AS=0.0442P	PD=1.36U	PS=0.86U
+ fw=2.6e-07 sa=4.98173e-07 sb=5.73365e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn3	Mmn1:s	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0442P	AS=0.0156P	PD=0.86U	PS=0.64U
+ fw=2.6e-07 sa=7.13173e-07 sb=3.58365e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.03905P	PD=0.64U	PS=0.9U
+ fw=2.6e-07 sa=8.18173e-07 sb=2.53365e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.03905P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.16e-06 sb=1.4e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=3.45e-07 sca=18.8664 scb=0.0202043 scc=0.000597023
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.4e-07 sca=12.8049 scb=0.0100559 scc=8.95671e-05
Mmp25	Mmp25:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0434P	PD=0.94U	PS=0.9U
+ fw=3.1e-07 sa=1.4e-07 sb=1.98e-06 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp36	Mmp25:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0558P	PD=0.94U	PS=0.98U
+ fw=3.1e-07 sa=3.45e-07 sb=1.775e-06 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0558P	AS=0.0775P	PD=0.98U	PS=1.12U
+ fw=3.1e-07 sa=5.7e-07 sb=1.55e-06 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.1364P	AS=0.0775P	PD=1.5U	PS=1.12U
+ fw=3.1e-07 sa=8.65e-07 sb=1.255e-06 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp40	Mmp30:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.1364P	AS=0.0496P	PD=1.5U	PS=0.94U
+ fw=3.1e-07 sa=1.35e-06 sb=7.7e-07 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp51	Mmp40:s	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.03565P	PD=0.94U	PS=0.85U
+ fw=3.1e-07 sa=1.555e-06 sb=5.65e-07 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.03565P	AS=0.0878P	PD=0.85U	PS=1.32U
+ fw=3.1e-07 sa=1.715e-06 sb=4.05e-07 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0878P	PD=1.06U	PS=1.32U
+ fw=3.9e-07 sa=1.60872e-06 sb=1.4e-07 sca=14.3987 scb=0.0130081 scc=0.000814275
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0701P	AS=0.0617P	PD=1.16U	PS=1.11U
+ fw=3.1e-07 sa=1.7e-07 sb=9.12339e-07 sca=12.4967 scb=0.0111079 scc=0.00042389
Mmp1	Mmp45:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0701P	AS=0.0819P	PD=1.16U	PS=1.2U
+ fw=3.9e-07 sa=3.50641e-07 sb=7.04551e-07 sca=16.2669 scb=0.0145797 scc=0.00118861
Mmp3	Mmp1:s	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0819P	AS=0.05265P	PD=1.2U	PS=1.05U
+ fw=3.9e-07 sa=6.05641e-07 sb=4.49551e-07 sca=16.5949 scb=0.0146729 scc=0.00118863
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.05265P	AS=0.06535P	PD=1.05U	PS=1.16U
+ fw=3.9e-07 sa=7.85641e-07 sb=2.69551e-07 sca=17.3384 scb=0.0151709 scc=0.00118918
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06535P	PD=0.71U	PS=1.16U
+ fw=2.15e-07 sa=9.76395e-07 sb=1.4e-07 sca=24.8073 scb=0.0246729 scc=0.00213017
.ENDS
.END
